US06380238B1
N-(2-Chloro-4-fluorophenyl)-2-(hydroxyimino)-acetamide
A solution of chloral hydrate (6.25 g, 37.8 mmol), sodium sulfate decahydrate (48.3 g, 340 mmol) and water (100 mL) was added to a stirred solution of 2-chloro-4-fluoroaniline (5.0 g, 34 mmol), hydroxylamine hydrochloride (9.19 g, 130 mmol), water (50 mL) and concentrated hydrochloric acid (3 mL). The reaction mixture was heated under reflux for 1 h, cooled to room temperature, stirred for 16 h and filtered. The filter-cake was recrystallised (methanol-water) to give the product (5.58 g, 75% yield) as a pale brown solid: IR νmax (Nujol)/cm−1 1655, 1613, 1536, 1267, 1191, 1021, 853 and 558; NMR δH (400 MHz, DMSO-d6) 7.20-7.29 (1H, m), 7.51-7.57 (1H, m), 7.78-7.84 (1H, m), 9.61 (1H, s) and 12.36 (1H, s).

reactant | chloral hydrate | 37.8 mmol, 6.25 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate decahydrate | 340 mmol, 48.3 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-4-fluoroaniline | 34 mmol, 5.0 g | ClC1=C(N)C=CC(=C1)F | C6H5ClFN
reactant | hydroxylamine hydrochloride | 130 mmol, 9.19 g | Cl.NO
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | N-(2-Chloro-4-fluorophenyl)-2-(hydroxyimino)-acetamide | 5.58 g, 75% yield | ClC1=C(C=CC(=C1)F)NC(C=NO)=O | C8H6ClFN2O2
